US08242133B2
A mixture of 2.7 g of 3-ethyl isonicotinonitrile, 1.63 g of sodium hydroxide, 20 ml of ethanol and 20 ml of water was heated to reflux for five hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. 3 M hydrochloric acid was added so that pH of the resultant residue became about 3, which was concentrated under reduced pressure again. To the resultant solid, 50 ml of ethanol was added and heated to reflux for five minutes, followed by hot filtration. To the solid collected by filtration, the same operation was carried out by using 50 ml each of ethanol. Combined filtrates were concentrated to give 2.49 g of 3-ethyl isonicotinic acid.

reactant | 3-ethyl isonicotinonitrile | 2.7 g | C(C)C1=C(C#N)C=CN=C1 | C8H8N2
reactant | sodium hydroxide | 1.63 g | [OH-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-ethyl isonicotinic acid | 2.49 g | C(C)C1=C(C(=O)O)C=CN=C1 | C8H9NO2
